US05650422
By the method of Example 44 condensation of 2-chloromethyl-4-isopropyl-5,6-dimethoxysaccharin (1.46 g) and 1-phenyltetrazol-5-thiol sodium salt (0.92 g) in dimethylformamide (5 mL) and recrystallization of the product from ethanol-water afforded 2-(1-phenyltetrazol-5-yl)thiomethyl-4-isopropyl-5,6-dimethoxy-saccharin, 1.05 g, 51% yield, mp 69°-71° C.

reactant | 2-chloromethyl-4-isopropyl-5,6-dimethoxysaccharin | 1.46 g | ClCN1S(=O)(=O)C2=CC(=C(C(=C2C1=O)C(C)C)OC)OC | C13H16ClNO5S
reactant | 1-phenyltetrazol-5-thiol sodium salt | 0.92 g | [Na].C1(=CC=CC=C1)N1N=NN=C1S
reactant | ethanol water | C(C)O.O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(1-phenyltetrazol-5-yl)thiomethyl-4-isopropyl-5,6-dimethoxy-saccharin | 51% yield | C1(=CC=CC=C1)N1N=NN=C1SCN1S(=O)(=O)C2=CC(=C(C(=C2C1=O)C(C)C)OC)OC | C20H21N5O5S2
